US07816522B2
(162b) 4-aminothiazole-5-carboxylic acid methyl ester
To a solution of 37.6 g of 4-amino-2-methanesulfonylthiazole-5-carboxylic acid methyl ester in 1 liter of a methanol:THF=1:1 mixed solvent at room temperature there was added 15 g of sodium borohydride in small portions over a period of 10 hours. The reaction mixture was stirred at room temperature for 40 hours, and then poured into a mixture of 6 liters of ethyl acetate and 3 liters of water. The organic layer was washed with 3 liters of water and 3 liters of saturated brine, and the aqueous layer was extracted again with ethyl acetate. The organic layers were combined and dried over anhydrous magnesium sulfate. The desiccating agent was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-heptane) to give the title compound (15.3 g) as a light yellow solid.

reactant | 4-amino-2-methanesulfonylthiazole-5-carboxylic acid methyl ester | 37.6 g | COC(=O)C1=C(N=C(S1)S(=O)(=O)C)N | C6H8N2O4S2
reactant | THF | C1CCOC1 | C4H8O
reactant | sodium borohydride | 15 g | [BH4-].[Na+]
reactant | ethyl acetate | 6 liters | C(C)(=O)OCC | C4H8O2
solvent | methanol | 1 liter | CO | CH4O
solvent | water | 3 liters | O | H2O
product | 4-aminothiazole-5-carboxylic acid methyl ester | 15.3 g | COC(=O)C1=C(N=CS1)N | C5H6N2O2S
